SKY130 device/statistical qualification, not circuit performance
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt_mm
.temp 27
.options reltol=1e-7 abstol=1e-15
VDD vdd 0 1.8
VGN gn 0 0.9
VGP gp 0 0.9
VNA dn_a 0 0.9
VNB dn_b 0 0.9
VPA dp_a 0 0.9
VPB dp_b 0 0.9
XNA dn_a gn 0 0 sky130_fd_pr__nfet_01v8 L=1 W=2 nf=1 mult=1
XNB dn_b gn 0 0 sky130_fd_pr__nfet_01v8 L=1 W=2 nf=1 mult=1
XPA dp_a gp vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=4 nf=1 mult=1
XPB dp_b gp vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=4 nf=1 mult=1
VCA ca 0 DC 0 AC 1
VCB cb 0 DC 0 AC 1
VCM cm 0 DC 0 AC 1
XCA ca 0 sky130_fd_pr__cap_mim_m3_1 W=3 L=3
XCB cb 0 sky130_fd_pr__cap_mim_m3_1 W=3 L=3
XCM cm 0 sky130_fd_pr__cap_mim_m3_1 W=3 L=3 m=64
.control
set num_threads=1
set numdgt=15
setseed 1302218
reset
op
let id_na=-vna#branch
let id_nb=-vnb#branch
let id_pa=vpa#branch
let id_pb=vpb#branch
print id_na id_nb id_pa id_pb
ac lin 1 1000 1000
let cap_a=-imag(vca#branch)/(2*pi*1000)
let cap_b=-imag(vcb#branch)/(2*pi*1000)
let cap_64=-imag(vcm#branch)/(2*pi*1000)
print cap_a cap_b cap_64
quit
.endc
.end
